US08048909B2
4-[(Trifluoromethyl)sulfonyl]benzenesulfonyl chloride
Under ice-cooling, thionyl chloride (2.7 mL) was added dropwise to water (16 mL) over 30 min. The mixture was stirred at room temperature for 12 hr to give a sulfur dioxide-containing solution. Under ice-cooling, {4-[(trifluoromethyl)sulfonyl]phenyl}amine (2.0 g) was added to concentrated hydrochloric acid (9 mL) and the mixture was stirred. An aqueous solution (3 mL) of sodium nitrite (0.67 g) was added dropwise while maintaining the inside temperature at not higher than 5° C. and the mixture was further stirred for 15 min. The mixture was gradually added at 5° C. to a mixture of the above-mentioned sulfur dioxide-containing solution added with cuprous chloride (10 mg). Under ice-cooling, the mixture was further stirred for 30 min. After stirring, the precipitated product was collected by filtration, washed with water, and dried in the presence of phosphorus pentoxide under reduced pressure at 50° C. to give the title compound (yield 2.3 g, 84%).

reactant | {4-[(trifluoromethyl)sulfonyl]phenyl}amine | 2.0 g | FC(S(=O)(=O)C1=CC=C(C=C1)N)(F)F | C7H6F3NO2S
reactant | hydrochloric acid | 9 mL | Cl | ClH
reactant | sodium nitrite | 3 mL, 0.67 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
product | 4-[(Trifluoromethyl)sulfonyl]benzenesulfonyl chloride | yield 2.3 g, 84% | FC(S(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O4S2
